US07858623B2
To a stirred solution of 2-fluoro-4-iodopyridine-3-carboxaldehyde (10.0 g, 39.8 mmol) in tert-butanol (350 mL) and water (100 mL) at room temperature were added 2-methyl-2-butene (42.1 ml, 398 mmol), sodium phosphate, monobasic, monohydrate (60.5 g, 438 mmol) and sodium chlorite (18.0 g, 199 mmol). The reaction mixture was stirred at room temperature for 75 min. The reaction mixture was diluted with dichloromethane and a 6M aqueous solution of hydrochloric acid was added until pH ˜2. The water layer was extracted with dichloromethane. The organic phase was dried over MgSO4, filtered and concentrated in vacuo. Purification by MPLC (CH2Cl2/MeOH+1% AcOH: 100/0 to 80/20) afforded 2-fluoro-4-iodonicotinic acid (10.63 g, 39.8 mmol, 100% yield). MS (ESI pos. ion) m/z: 268 (MH+). Calc'd exact mass for C6H3FINO2: 267.

reactant | 2-fluoro-4-iodopyridine-3-carboxaldehyde | 39.8 mmol, 10.0 g | FC1=NC=CC(=C1C=O)I | C6H3FINO
reactant | 2-methyl-2-butene | 398 mmol, 42.1 ml | CC(C)=CC | C5H10
reactant | sodium phosphate | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | sodium chlorite | 199 mmol, 18.0 g | Cl(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tert-butanol | 350 mL | C(C)(C)(C)O | C4H10O
solvent | water | 100 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-fluoro-4-iodonicotinic acid | 39.8 mmol, 10.63 g, 100% yield | FC1=C(C(=O)O)C(=CC=N1)I | C6H3FINO2
